US07723347B2
4-(4-Amino-2-fluorobenzyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile
1.70 g (2.98 mmol) of N-[4-({3-bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-methyl)-3-fluorophenyl]-2,2,2-trifluoroacetamide, 219 mg (1.19 mmol) of zinc acetate, 78 mg (1.19 mmol) of zinc dust, 189 mg (1.61 mmol) of zinc cyanide, 50.0 mg (0.09 mmol) of bis(diphenylphosphino)ferrocene and 27.3 mg (0.03 mmol) of tris(dibenzylideneacetone)dipalladium are initially charged. Under argon, a degassed mixture of 17 ml of DMF and 0.17 ml of water is added, and the mixture is heated at 100° C. for 20 hours. 10 ml of water, 8 ml of THF and 1.21 g (50.3 mmol) of lithium hydroxide are added to the crude mixture, which is then stirred at RT for 20 h. The mixture is concentrated a little and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and concentrated under reduced pressure. The product is purified by chromatography on silica gel (mobile phase: dichloromethane:methanol 25:1).

reactant | N-[4-({3-bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-methyl)-3-fluorophenyl]-2,2,2-trifluoroacetamide | 2.98 mmol, 1.70 g | BrC1=CN(C2=NC=CC(=C21)CC2=C(C=C(C=C2)NC(C(F)(F)F)=O)F)S(=O)(=O)C2=CC=C(C=C2)C | C23H16BrF4N3O3S
reactant | DMF | 17 ml | CN(C)C=O | C3H7NO
reactant | water | 0.17 ml | O | H2O
reactant | water | 10 ml | O | H2O
reactant | lithium hydroxide | 50.3 mmol, 1.21 g | [OH-].[Li+]
catalyst | zinc acetate | 1.19 mmol, 219 mg | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
catalyst | zinc | 1.19 mmol, 78 mg | [Zn] | Zn
catalyst | zinc cyanide | 1.61 mmol, 189 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | bis(diphenylphosphino)ferrocene | 0.09 mmol, 50.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.03 mmol, 27.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 4-(4-Amino-2-fluorobenzyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | NC1=CC(=C(CC2=C3C(=NC=C2)NC=C3C#N)C=C1)F | C15H11FN4
